US08748624B2
STEP D: ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate
Ethyl 3-(5-(2-(bromomethyl)-4,5-difluorophenyl)picolinamido)propanoate (1.0 g, 2.3 mmol), 3-chloro-4-iodoaniline (1.2 g, 4.7 mmol), and K2CO3 (647 mg, 4.7 mmol) were diluted with DMF (2.4 mL) and the resulting mixture was stirred at room temperature. After 2 h the resulting mixture directly purified via column chromatography to yield the title compound.

reactant | Ethyl 3-(5-(2-(bromomethyl)-4,5-difluorophenyl)picolinamido)propanoate | 2.3 mmol, 1.0 g | BrCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C18H17BrF2N2O3
reactant | 3-chloro-4-iodoaniline | 4.7 mmol, 1.2 g | ClC=1C=C(N)C=CC1I | C6H5ClIN
reactant | K2CO3 | 4.7 mmol, 647 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2.4 mL | CN(C)C=O | C3H7NO
product | ethyl 3-(5-(2-(((3-chloro-4-iodophenyl)amino)methyl)-4,5-difluorophenyl)picolinamido)propanoate | ClC=1C=C(C=CC1I)NCC1=C(C=C(C(=C1)F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C24H21ClF2IN3O3
